US04528296
Following the procedure of Example 3, but substituting an equivalent amount of methyl 5-(2-acetylthiomethyl-propionamido)-nicotinate, obtained as disclosed in Example 12, for methyl 2-(2-acetylthiomethyl-propionamido)-nicotinate and substituting an equivalent amount of potassium carbonate for sodium hydroxide and maintaining the reaction mixture under stirring for six hours at room temperature, 5-(2-mercaptomethyl-propionamido)-nicotinic acid is obtained after purification on a silica gel column (eluent methylene chloride/methanol 99:1); m.p. 160°-165° C., from acetone.

reactant | methyl 5-(2-acetylthiomethyl-propionamido)-nicotinate | C(C)(=O)SCC(C(=O)NC=1C=NC=C(C(=O)OC)C1)C | C13H16N2O4S
reactant | methyl 2-(2-acetylthiomethyl-propionamido)-nicotinate | C(C)(=O)SCC(C(=O)NC1=C(C(=O)OC)C=CC=N1)C | C13H16N2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-(2-mercaptomethyl-propionamido)-nicotinic acid | SCC(C(=O)NC=1C=NC=C(C(=O)O)C1)C | C10H12N2O3S
